US07414076B2
Preparation of 3-isoamylamino-1-propanesulfonic acid (Compound CH)
Isoamylamine (4 mL, 34.5 mmol) was added to a solution of 1,3-propane sultone (4.7 g, 38 mmol) in 2-butanone (70 mL). The mixture was warmed to reflux. After 30 minutes, the mixture was too thick to stir. Acetone (15 mL) was added. The reflux was maintained for a total of 4 hours. The suspension was cooled at room temperature. The white solid was collected by filtration, rinsed with acetone (10 mL), then with ether (10 mL). Compound CH was obtained as a very light, fluffy white solid (4.48 g, 62% yield). m.p. 220° C.: decomposed. 1H NMR (500 MHz, D2O) δ 0.65 (d, J=6.3 Hz, 6H), 1.29 (q, J=7.7 Hz, 2H), 1.35-1.42 (m, J=6.6 Hz, 1H), 1.86 (qt, J=7.6 Hz, 2H), 2.74 (t, J=7.3 Hz, 2H), 2.81 (t, J=8.1 Hz, 2H), 2.93 (t, J=7.8 Hz, 2H). 13C NMR (125 MHz, D2O) δ 21.3, 21.4, 25.2, 34.2, 46.1, 46.2, 47.9

reactant | Isoamylamine | 34.5 mmol, 4 mL | C(CC(C)C)N | C5H13N
reactant | 1,3-propane sultone | 38 mmol, 4.7 g | C1COS(=O)(=O)C1 | C3H6O3S
reactant | Acetone | 15 mL | CC(=O)C | C3H6O
solvent | 2-butanone | 70 mL | CC(CC)=O | C4H8O
product | 3-isoamylamino-1-propanesulfonic acid | 4.48 g, 62% yield | C(CC(C)C)NCCCS(=O)(=O)O | C8H19NO3S
